US08247595B2
To a solution of 2.0 g of 3-butynyl p-toluenesulfonate and 2.1 g of methyl (3,3,3-trifluoropropylsulfonyl)acetate in 30 ml of dimethyl sulfoxide, 0.4 g of sodium hydride (60% in oil) was added at room temperature, and stirred at the same temperature for 4 days. To the reaction mixture, 10% hydrochloric acid was added, followed by extraction with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The obtained residue was subjected to silica gel chromatography to obtain 0.90 g of methyl 2-(3,3,3-trifluoropropylsulfonyl)-5-hexynoate (hereinafter referred to as the present compound (8)).

reactant | 3-butynyl p-toluenesulfonate | 2.0 g | C1(=CC=C(C=C1)S(=O)(=O)OCCC#C)C | C11H12O3S
reactant | methyl (3,3,3-trifluoropropylsulfonyl)acetate | 2.1 g | FC(CCS(=O)(=O)CC(=O)OC)(F)F | C6H9F3O4S
reactant | sodium hydride | 0.4 g | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
product | methyl 2-(3,3,3-trifluoropropylsulfonyl)-5-hexynoate | 0.90 g | FC(CCS(=O)(=O)C(C(=O)OC)CCC#C)(F)F | C10H13F3O4S
